US09340513B2
4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-1-Isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3a-((E)-3-oxo-3-(p-tolylamino)prop-1-en-1-yl)-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid
To a solution of 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3a-((E)-3-oxo-3-(p-tolylamino)prop-1-en-1-yl)-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (250 mg, 0.325 mmol) in dichloromethane (5 mL) stirred at rt was added TFA (0.025 mL, 0.325 mmol). The reaction mixture was stirred at rt for 1 h. Upon completion and work-up and purification the title compound was obtained as a trifluoroacetic acid salt (150 mg, 0.181 mmol, 55.8%) as a light white solid. 1H NMR (300 MHz, DMSO-d6) δ=9.70 (s, 1H), 7.51 (d, J=8.4 Hz, 2H), 7.11 (d, J=8.4 Hz, 2H), 6.83 (d, J=15.8 Hz, 1H), 6.08 (d, J=15.7 Hz, 1H), 4.53-4.32 (m, 1H), 3.30-3.11 (m, 1H), 2.90-2.73 (m, 1H), 2.55-2.51 (m, 1H), 2.35-0.75 (m, 51H); LC/MS: m/z calculated 713.5. Found 714.3 (M+1)+.

reactant | 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3a-((E)-3-oxo-3-(p-tolylamino)prop-1-en-1-yl)-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 0.325 mmol, 250 mg | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)\C=C\C(NC5=CC=C(C=C5)C)=O)C)C)(C)C)C | C49H71NO6
reactant | TFA | 0.325 mmol, 0.025 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-1-Isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3a-((E)-3-oxo-3-(p-tolylamino)prop-1-en-1-yl)-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 0.181 mmol, 150 mg, 55.8% | C(C)(C)C=1C(C[C@]2(C1[C@H]1CC[C@@H]3[C@]4(CC[C@@H](C([C@@H]4CC[C@]3([C@@]1(CC2)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)\C=C\C(NC2=CC=C(C=C2)C)=O)=O | C45H63NO6
